* source OPEN
V_V3         N12496 0  AC 0
+SIN 0 325 50 0 0 0
C_C1         0 N11683  1000uF  TC=0,0 
D_D2         0 N11747 D1N4002 
D_D4         0 N11751 D1N4002 
D_D3         N11751 N11683 D1N4002 
D_D1         N11747 N11683 D1N4002 
R_R2         N12496 N12060  10 TC=0,0 
X_TX1    N12060 0 N11747 N11751 SCHEMATIC1_TX1 
X_U1         N11683 N14220 N18082 LM7805C
C_C2         0 N14220  0.01uF  TC=0,0 
R_R3         0 N11683  300 TC=0,0 
R_R4         0 N18082  10 TC=0,0 

.subckt SCHEMATIC1_TX1 1 2 3 4  
K_TX1         L1_TX1 L2_TX1 1
L1_TX1         1 2 65.179H
L2_TX1         3 4 100mH
.ends SCHEMATIC1_TX1
